US07338973B2
8-Methoxy-11-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene
Following the procedure described in Example 102, using 8-methoxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene (150 mg, 0.562 mmol) and [2-(4-chloromethyl-phenoxy)-ethyl]-cyclohexanyl-amine hydrochloride salt as the starting material, the title compound was prepared as a brown solid.

reactant | 8-methoxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene | 0.562 mmol, 150 mg | COC=1C=C2C=3COC4=C(C3NC2=CC1)C=CC=C4 | C16H13NO2
reactant | [2-(4-chloromethyl-phenoxy)-ethyl]-cyclohexanyl-amine hydrochloride salt | Cl.ClCC1=CC=C(OCCNC2CCCCC2)C=C1
product | 8-Methoxy-11-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene | COC=1C=C2C=3COC4=C(C3N(C2=CC1)CC1=CC=C(C=C1)OCCN1CCCCC1)C=CC=C4 | C30H32N2O3
